US05494918
Step B 4-bromomethyl-3', 4'-methylenedioxy-1,1-biphenyl
A mixture of 4.6 g (21.67 m moles) of 4-methyl-3', 4'-methylenedioxy-1,1-biphenyl and 5.0 g (28 m mole) of N-bromosuccinimide in 70 ml of carbon tetrachloride containing 0.1 g of benzoyl perioxide is heated under reflux for 2.5 hours. The mixture is filtered and the filtrate evaporated. The residue is recrystallized from hexane to afford (m.p. 78°-81°).

reactant | 4-methyl-3', 4'-methylenedioxy-1,1-biphenyl | 4.6 g | CC1=CC=C(C=C1)C1=CC2=C(C=C1)OCO2 | C14H12O2
reactant | N-bromosuccinimide | 5.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 70 ml, 0.1 g | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-bromomethyl-3', 4'-methylenedioxy-1,1-biphenyl | BrCC1=CC=C(C=C1)C1=CC2=C(C=C1)OCO2 | C14H11BrO2
